US08349886B2
N-methoxy-2-(4-methoxy-1H-pyrazolo[3,4-b]pyridin-1-yl)-N-methyl-3-(tetrahydro-2H-pyran-4-yl)propanamide
A mixture of ethyl 2-(4-iodo-1H-pyrazolo[3,4-b]pyridin-1-yl)-3-(tetrahydro-2H-pyran-4-yl)propanoate (1.69 g), sodium cyclopropanesulfinate (1.5 g), copper (I) iodide (0.22 g), N,N′-dimethylethylenediamine (0.13 mL), potassium carbonate (1.6 g) and dimethyl sulfoxide (25 mL) was stirred overnight at 100° C. To the reaction mixture was added aqueous citric acid solution, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated brine, dried (MgSO4), and concentrated. The obtained residue was dissolved in a mixed solvent of tetrahydrofuran (10 mL) and methanol (10 mL). To this solution was added an aqueous solution of potassium hydroxide (0.65 g) in water (5 mL), and the mixture was stirred overnight at room temperature. To the reaction mixture was added aqueous citric acid solution, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated brine, dried (MgSO4), and concentrated. A mixture of the obtained residue, N,O-dimethylhydroxylamine hydrochloride (0.38 g), triethylamine (0.54 mL) and N,N-dimethylformamide (20 mL) was ice-cooled, 1H-1,2,3-benzotriazol-1-ol (0.45 g) and N-[3-(dimethylamino)propyl]-N′-ethylcarbodiimide hydrochloride (0.64 g) were added thereto, and the mixture was stirred overnight under ice-cooling to at room temperature. To the reaction mixture was added aqueous sodium hydrogen carbonate solution, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed successively with aqueous sodium hydrogen carbonate solution and saturated brine, dried (MgSO4), and concentrated. The obtained residue was subjected to silica gel column chromatography to give the title compound (0.37 g, yield 27%) as a colorless oil from the fraction eluted with ethyl acetate-hexane (65:35, volume ratio). MS: 349 (MH+).

reactant | ethyl 2-(4-iodo-1H-pyrazolo[3,4-b]pyridin-1-yl)-3-(tetrahydro-2H-pyran-4-yl)propanoate | 1.69 g | IC1=C2C(=NC=C1)N(N=C2)C(C(=O)OCC)CC2CCOCC2 | C16H20IN3O3
reactant | sodium cyclopropanesulfinate | 1.5 g | C1(CC1)S(=O)[O-].[Na+]
reactant | N,N′-dimethylethylenediamine | 0.13 mL | CNCCNC | C4H12N2
reactant | potassium carbonate | 1.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
catalyst | copper (I) iodide | 0.22 g | [Cu]I
solvent | dimethyl sulfoxide | 25 mL | CS(=O)C | C2H6OS
product | N-methoxy-2-(4-methoxy-1H-pyrazolo[3,4-b]pyridin-1-yl)-N-methyl-3-(tetrahydro-2H-pyran-4-yl)propanamide | 0.37 g, yield 27% | CON(C(C(CC1CCOCC1)N1N=CC=2C1=NC=CC2OC)=O)C | C17H24N4O4
